US07648997B2
The method described in Part C of Example 140 can be used to treat 2-{4-[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]-1H-isoindole-1,3(2H)-dione with anhydrous hydrazine to provide 1-[4-(aminooxy)butyl]-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 2-{4-[4-amino-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butoxy]-1H-isoindole-1,3(2H)-dione | NC1=NC=2CCCCC2C2=C1N=C(N2CCCCON2C(C1=CC=CC=C1C2=O)=O)COCC | C25H29N5O4
reactant | hydrazine | NN | H4N2
product | 1-[4-(aminooxy)butyl]-2-(ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | NOCCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)COCC | C17H27N5O2
